US03947520
Using the procedure of step A of Example 3, but replacing 1-(p-hydroxyphenyl)-4-(m-methoxyphenyl-2-phenyl-1-butanone by 1,2-diphenyl-4-(m-methoxyphenyl)-1 -butanone there is obtained 1,2-diphenyl-4-(m-methoxyphenyl)-1-butanol.

reactant | m-methoxyphenyl-2-phenyl-1-butanone | COC=1C=C(C=CC1)C(C(=O)C1=CC=CC=C1)CC | C17H18O2
reactant | 1,2-diphenyl-4-(m-methoxyphenyl)-1 -butanone | C1(=CC=CC=C1)C(C(CCC1=CC(=CC=C1)OC)C1=CC=CC=C1)=O | C23H22O2
product | 1,2-diphenyl-4-(m-methoxyphenyl)-1-butanol | C1(=CC=CC=C1)C(C(CCC1=CC(=CC=C1)OC)C1=CC=CC=C1)O | C23H24O2
